US07709645B2
30 mg (0.04 mmol) of {2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-[4-(2-diethylamino-ethyl)-piperazin-1-yl]-methanone was combined with 9.0 mg (0.06 mmol) of dimethylaminoacetylchloride hydrochloride and 32 mg (0.11 mmol, 3.31 mmol/gram loading) of PS-DIEA resin (Argonaut Technologies, Inc.) in 1.0 mL dichloromethane. The reaction was shaken gently at room temperature for 48 hours. 22 mg (0.14 mmol) of dimethylaminoacetylchloride hydrochloride and 26 mg (0.09 mmol) more PS-DIEA resin (Argonaut Technologies, Inc.) was added and the reaction was continued to shake at room temperature for 24 more hours. The resin was filtered off and rinsed well with methanol and dichloromethane. The filtrate was concentrated down. The dried residue was dissolved in 0.5 mL methanol and 0.5 mL acetone. 150 μL of a 50% w/v potassium hydroxide (aqueous) solution was added and the reaction was stirred at room temperature for 1 hour. The reaction was neutralized by adding a few drops of acetic acid and concentrated. The residue was dissolved in dimethyl sulfoxide, filtered through a 0.45 μm syringe filter, and purified by reverse phase HPLC in a gradient of acetonitrile and water (containing 0.1% formic acid). The clean fractions were lyophilized to afford 1.9 mg (0.003 mmol, 7% yield) of N-{2-[4-(2-diethylamino-ethyl)-piperazine-1-carbonyl]-6-fluoro-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-2-dimethylamino-acetamide as a fluffy white powder. 1H NMR (500 MHz, CD3OD) δ 8.51 (d, 1H), 8.28 (d, 1H), 7.70 (s, 1H), 7.67 (dd, 1H), 7.60 (dd, 1H), 7.46 (s, br., 1H), 7.32 (t, 1H), 7.14 (d, 1H), 7.07 (d, 1H), 3.87 (s, 3H), 3.77 (s, br., 2H), 3.56 (d, 2H), 3.19 (s, 2H), 3.13 (s, br., 2H), 2.71 (t, 2H), 2.64 (t, 2H), 2.59 (d, 2H), 2.41 (s, 6H), 1.26 (t, 6H); MS: m/z 630.2 (M+H+).

reactant | {2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-[4-(2-diethylamino-ethyl)-piperazin-1-yl]-methanone | 0.04 mmol, 30 mg | NC1=C(C=C(C=C1F)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)C(=O)N2CCN(CC2)CCN(CC)CC | C38H43FN6O4S
reactant | dimethylaminoacetylchloride hydrochloride | 0.06 mmol, 9.0 mg | Cl.CN(C)CC(=O)Cl
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylaminoacetylchloride hydrochloride | 0.14 mmol, 22 mg | Cl.CN(C)CC(=O)Cl
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | N-{2-[4-(2-diethylamino-ethyl)-piperazine-1-carbonyl]-6-fluoro-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-2-dimethylamino-acetamide | 0.003 mmol, 1.9 mg, 7% yield | C(C)N(CCN1CCN(CC1)C(=O)C1=C(C(=CC(=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)F)NC(CN(C)C)=O)CC | C35H44FN7O3
